* SPICE3 file created from qz.ext - technology: sky130A

.subckt qz CLK Dout FBack D GND VCCD
Xsky130_fd_sc_hd__dlygate4sd3_1_0 CLK GND GND VCCD VCCD DL1 sky130_fd_sc_hd__dlygate4sd3_1
Xsky130_fd_sc_hd__dlygate4sd3_1_1 DL1 GND GND VCCD VCCD DL2 sky130_fd_sc_hd__dlygate4sd3_1
Xsky130_fd_sc_hd__inv_2_0 FBack_inv GND GND VCCD VCCD FBack sky130_fd_sc_hd__inv_2
Xsky130_fd_sc_hd__buf_2_0 D GND GND VCCD VCCD sky130_fd_sc_hd__buf_2_0/X sky130_fd_sc_hd__buf_2
Xsky130_fd_sc_hd__dlygate4sd3_1_2 DL2 GND GND VCCD VCCD DL3 sky130_fd_sc_hd__dlygate4sd3_1
Xsky130_fd_sc_hd__dlygate4sd3_1_3 DL3 GND GND VCCD VCCD DL4 sky130_fd_sc_hd__dlygate4sd3_1
Xsky130_fd_sc_hd__dlygate4sd3_1_4 DL4 GND GND VCCD VCCD DL5 sky130_fd_sc_hd__dlygate4sd3_1
Xsky130_fd_sc_hd__dlygate4sd3_1_5 DL5 GND GND VCCD VCCD CLK_dly sky130_fd_sc_hd__dlygate4sd3_1
Xsky130_fd_sc_hd__nand2_1_0 CLK_dly Dout GND GND VCCD VCCD FBack_inv sky130_fd_sc_hd__nand2_1
Xsky130_fd_sc_hd__dfxtp_1_0 CLK sky130_fd_sc_hd__buf_2_0/X GND GND VCCD VCCD Dout
+ sky130_fd_sc_hd__dfxtp_1
C0 GND 0 3.115494f
C1 VCCD 0 11.105097f
.ends
